US07718645B2
A mixture of 4,6-dichloropyrimidine-5-carbonyl chloride (2.27 g, 10.7 mmol), methyl[trans-4-(4-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}propyl]-amino}phenyl)cyclohexyl]acetate (4.50 g, 10.7 mmol), from Step 1, and TEA (2.24 mL, 16.1 mmol) in THF (150 mL) was stirred at room temperature under nitrogen for 14 hours. The reaction mixture was concentrated to remove THF. The residue was diluted with EtOAc (300 mL), washed with water (2×200 mL), dried over MgSO4 and concentrated. The crude material was purified by a 120 g silica gel column eluted with 3-15% EtOAc in heptane to give methyl[trans-4-(4-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}propyl][(4,6-dichloropyrimidin-5-yl)carbonyl]amino}phenyl)cyclohexyl]acetate as a colorless oil 4.01 g (63%). m/z=594.2 (M+1). 1H NMR (400 MHz, chloroform-d) δ −0.06 (s, 6H) 0.71 (s, 9H) 0.99-1.14 (m, 2H) 1.25-1.30 (m, 3H) 1.30-1.42 (m, 2H) 1.78 (dd, J=28.30, 11.90 Hz, 5H) 2.20 (d, J=7.03 Hz, 2H) 2.28-2.39 (m, 1H) 3.64 (s, 3H) 3.83-3.97 (m, 2H) 4.04-4.14 (m, 1H) 7.00 (d, J=8.20 Hz, 2H) 7.19 (d, J=8.59 Hz, 2H) 8.53 (s, 1H).

reactant | 4,6-dichloropyrimidine-5-carbonyl chloride | 10.7 mmol, 2.27 g | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
reactant | methyl[trans-4-(4-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}propyl]-amino}phenyl)cyclohexyl]acetate | 10.7 mmol, 4.50 g | COC(C[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)NC[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C24H41NO3Si
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | methyl[trans-4-(4-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}propyl][(4,6-dichloropyrimidin-5-yl)carbonyl]amino}phenyl)cyclohexyl]acetate | 4.01 g, 63% | COC(C[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)N(C(=O)C=1C(=NC=NC1Cl)Cl)C[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C29H41Cl2N3O4Si
